US06492642B1
To do this, a concentrated orthophosphoric acid is entered into a cooled hydrochloric acid solution, while being mixed. In order to produce pyrophosphoric acid (H4P2O7) according to the reaction:

reactant | orthophosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | hydrochloric acid | Cl | ClH
product | pyrophosphoric acid | P(=O)(O)(O)OP(=O)(O)O | H4O7P2
